US04935437
A solution of oxalyl chloride (0.12 ml) in dichloromethane (2 ml) was stirred and cooled to 70° while dimethyl sulphoxide (0.12 ml) was added dropwise. The solution was stirred for 2 minutes, then 2-[3-(1-hydroxyethyl)-5-(1H-1,2,4-triazol-1-ylmethyl)phenyl]-2-methylpropiononitrile, (0.18 g), was added, and the temperature was kept at -70° for 10 minutes. Triethylamine (0.2 ml) was added, and the mixture was allowed to warm to room temperature. Water (15 ml) was added, and the mixture was extracted three times with dichloromethane. The extracts were combined, dried and evaporated to dryness, and the residue was purified by flash column chromatography, eluting with methanol:chloroform (1:99 by volume) to give 2-[3 acetyl-5-(1H-1,2,4-triazol-1 ylmethyl)phenyl]-2-methylpropiononitrile. Nmr in deuteriochloroform; δ 8.2(1H,s), 8.02(2H,m), 7.8(1H,m), 7.64(1H,m), 5.45(2H,s), 2.6 (3H,s), 1.75(6H,s).

reactant | oxalyl chloride | 0.12 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 0.12 ml | CS(=O)C | C2H6OS
reactant | 2-[3-(1-hydroxyethyl)-5-(1H-1,2,4-triazol-1-ylmethyl)phenyl]-2-methylpropiononitrile | 0.18 g | OC(C)C=1C=C(C=C(C1)CN1N=CN=C1)C(C#N)(C)C | C15H18N4O
reactant | Triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | Water | 15 ml | O | H2O
product | 2-[3 acetyl-5-(1H-1,2,4-triazol-1 ylmethyl)phenyl]-2-methylpropiononitrile | C(C)(=O)C=1C=C(C=C(C1)CN1N=CN=C1)C(C#N)(C)C | C15H16N4O
